### PR TITLE
Add `rightDeriv` and `leftDeriv` and results about the derivatives of convex functions

### PR DESCRIPTION
**Pull request by LorenzoLuccioli**
- Add `ConvexOn.comp_neg` and `ConvexOn.comp_neg_iff`
- Add the file `MonotoneOnTendsto.lean` about the limits of monotone functions
- Add the file `LeftRightDeriv.lean`
- Add the definition of `rightDeriv` and `leftDeriv` as well as some API lemmas, including the existence, monotonicity and right (left) continuity if the right (left) derivative of a convex function
- Add `StieltjesFunction.rightDeriv_of_convex`, the definition of the right derivative of a convex function as a Stieltjes function

### CODE REVIEW

File: TestingLowerBounds/ForMathlib/LeftRightDeriv.lean [hunk 1]
```diff
@@ -0,0 +1,190 @@
...
+lemma leftDeriv_left_continuous_convexOn (w : ℝ) : ContinuousWithinAt (leftDeriv f) (Iic w) w := by
+  have h_map : MapsTo Neg.neg (Iic w) (Ici (-w)) := fun _ (h : _ ≤ w) ↦ (neg_le_neg_iff.mpr h)
+  rw [leftDeriv_eq_rightDeriv]
+  refine ContinuousWithinAt.comp ?_ continuousWithinAt_neg h_map |>.neg
+  exact rightDeriv_right_continuous_of_convexOn hfc.comp_neg (-w)
+
+end ConvexOn
+
+noncomputable
+def StieltjesFunction.rightDeriv_of_convex (f : ℝ → ℝ) (hf : ConvexOn ℝ univ f) :
```
Comment (RemyDegenne) [inline TestingLowerBounds/ForMathlib/LeftRightDeriv.lean]: Perhaps call this `ConvexOn.rightDerivStieltjes` to enable dot notation on the `ConvexOn` hypothesis?

File: TestingLowerBounds/ForMathlib/LeftRightDeriv.lean [hunk 2]
```diff
@@ -0,0 +1,190 @@
...
+
+lemma bddAbove_slope_Iio_of_convexOn {f : ℝ → ℝ} (hfc : ConvexOn ℝ univ f) (x : ℝ) :
+    BddAbove (slope f x '' Iio x) := by
+  refine bddAbove_iff_subset_Iic.mpr ⟨(slope f x (x + 1)), fun y ⟨z, (hz : z < x), hz'⟩ ↦ ?_⟩
+  simp_rw [mem_Iic, ← hz']
+  exact slope_mono hfc (mem_univ x) ⟨trivial, hz.ne⟩ (by simp) (by linarith)
+
+end Slope
+
+variable {f : ℝ → ℝ} (hfc : ConvexOn ℝ univ f)
```
Comment (RemyDegenne) [inline TestingLowerBounds/ForMathlib/LeftRightDeriv.lean]: Please don't put explicit hypotheses in `variable` lines. It makes the code hard to read. `(hfc : ConvexOn ℝ univ f)` should be moved to the lemma statements.

File: TestingLowerBounds/ForMathlib/LeftRightDeriv.lean [hunk 3]
```diff
@@ -0,0 +1,190 @@
...
+  ext x
+  simp [leftDeriv_eq_rightDeriv_apply]
+
+namespace ConvexOn
+
+section Slope
+
+variable {𝕜 : Type*} [LinearOrderedField 𝕜] {s : Set 𝕜} {f : 𝕜 → 𝕜} {x : 𝕜}
+
+--This has already been merged in Mathlib, see #14015. When we bump remove this
```
Comment (RemyDegenne) [inline TestingLowerBounds/ForMathlib/LeftRightDeriv.lean]: Fix this once our bump is done.

File: TestingLowerBounds/Convex.lean [hunk 4]
```diff
@@ -59,3 +61,20 @@ lemma ConvexOn.slope_tendsto_atTop (hf_cvx : ConvexOn ℝ (Set.Ici 0) f) :
   · simpa using h_mono 1 y zero_lt_one (not_le.mp hy).le
   · exact absurd (hxy.trans hy) hx
   · simpa using h_mono x y (zero_lt_one.trans (not_le.mp hx)) hxy
+
+lemma comp_neg {𝕜 F β : Type*} [LinearOrderedField 𝕜] [AddCommGroup F]
+    [OrderedAddCommMonoid β] [Module 𝕜 F] [SMul 𝕜 β] {f : F → β} {s : Set F}
+    (hf : ConvexOn 𝕜 s f) :
+    ConvexOn 𝕜 (-s) (f ∘ Neg.neg) := by
```
Comment (RemyDegenne) [inline TestingLowerBounds/Convex.lean]: Lemmas of that type are most often stated with the function in the form `fun x ↦ f (-x)` rather than `f ∘ Neg.neg`, because the first appears more naturally in code where you would want to use it.
Can you try that change here and elsewhere in the PR?

File: TestingLowerBounds/ForMathlib/LeftRightDeriv.lean [hunk 5]
```diff
@@ -0,0 +1,190 @@
...
+import Mathlib.Analysis.Convex.Deriv
+import TestingLowerBounds.ForMathlib.MonotoneOnTendsto
+
+
+open Set Filter Topology
+
+open scoped ENNReal NNReal
+
+noncomputable
+def rightDeriv (f : ℝ → ℝ) : ℝ → ℝ := fun x ↦ derivWithin f (Ioi x) x
```
Comment (RemyDegenne) [inline TestingLowerBounds/ForMathlib/LeftRightDeriv.lean:21]: Let's add docstrings to the definitions (and more generally, run `#lint` on the files).
(I know I am guilty of pushing several defs without docstrings... but let's improve on that).

File: TestingLowerBounds/ForMathlib/LeftRightDeriv.lean [hunk 6]
```diff
@@ -0,0 +1,190 @@
...
+  refine bddAbove_iff_subset_Iic.mpr ⟨(slope f x (x + 1)), fun y ⟨z, (hz : z < x), hz'⟩ ↦ ?_⟩
+  simp_rw [mem_Iic, ← hz']
+  exact slope_mono hfc (mem_univ x) ⟨trivial, hz.ne⟩ (by simp) (by linarith)
+
+end Slope
+
+variable {f : ℝ → ℝ} (hfc : ConvexOn ℝ univ f)
+
+-- TODO: this can be generalized to a set S, where the function is convex, but I still need to figure out what hp to require, since the minimal assumption I think is that there exist a right interval of x that is contained in S (so x itself does not have to be in S), i.e. (x, y) ⊆ S, I don't know if. To generalize we will need MonotoneOn.tendsto_nhdsWithin_Ioo_right. However there are dirrerent kinds of sufficient conditions that could be given, for example S open and x in S or x in the interior of S. Discuss this with Remy. Maybe the minimal hp I described is not sufficient, I also need to assure some kind of boundedness of the slope, this should be assured if x is in the interior of S, because then we can take a point to the left of x but still inside S and use the monotonicity of the solpe in S, but can we do better? For now we can leave it like this
+lemma hasRightDerivAt_of_convexOn (x : ℝ) :
```
Comment (RemyDegenne) [inline TestingLowerBounds/ForMathlib/LeftRightDeriv.lean]: This and the next lemmas could use dot notation and be called `ConvexOn.xxx`

File: TestingLowerBounds/ForMathlib/LeftRightDeriv.lean [hunk 7]
```diff
@@ -0,0 +1,190 @@
...
+lemma leftDeriv_le_rightDeriv : leftDeriv f ≤ rightDeriv f := by
+  intro x
+  rw [rightDeriv_eq_sInf_slope_of_convexOn hfc, leftDeriv_eq_sSup_slope_of_convexOn hfc]
+  refine csSup_le nonempty_of_nonempty_subtype ?_
+  rintro _ ⟨z, (zx : z < x), rfl⟩
+  refine le_csInf nonempty_of_nonempty_subtype ?_
+  rintro _ ⟨y, xy, rfl⟩
+  exact slope_mono hfc trivial ⟨trivial, zx.ne⟩ ⟨trivial, (Ne.symm (ne_of_lt xy))⟩ (zx.trans xy).le
+
+lemma rightDeriv_right_continuous_of_convexOn (w : ℝ) :
```
Comment (RemyDegenne) [inline TestingLowerBounds/ForMathlib/LeftRightDeriv.lean]: Is `right_continuous` a standard part of Mathlib lemma names about `ContinuousWithinAt` for `Ici`?

File: TestingLowerBounds/ForMathlib/LeftRightDeriv.lean (hunk 6 above)
Comment (LorenzoLuccioli) [reply TestingLowerBounds/ForMathlib/LeftRightDeriv.lean]: They are already in the namespace `ConvexOn`, should I delete the reference to `ConvexOn` in the rest of the name?
For example `ConvexOn.hasRightDerivAt_of_convexOn` could become `ConvexOn.hasRightDerivAt`.
It seems actually better.

File: TestingLowerBounds/ForMathlib/LeftRightDeriv.lean (hunk 7 above)
Comment (LorenzoLuccioli) [reply TestingLowerBounds/ForMathlib/LeftRightDeriv.lean]: It appears in Mathlib, but only [once](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Measure/Stieltjes.html#StieltjesFunction.right_continuous).

File: TestingLowerBounds/ForMathlib/LeftRightDeriv.lean [hunk 8]
```diff
@@ -0,0 +1,191 @@
...
+  exact slope_mono hfc trivial ⟨trivial, zx.ne⟩ ⟨trivial, xy.ne'⟩ (zx.trans xy).le
+
+lemma rightDeriv_right_continuous (hfc : ConvexOn ℝ univ f) (w : ℝ) :
+    ContinuousWithinAt (rightDeriv f) (Ici w) w := by
+  simp_rw [← continuousWithinAt_Ioi_iff_Ici, ContinuousWithinAt]
+  have h_lim := MonotoneOn.tendsto_nhdsWithin_Ioi (hfc.rightDeriv_mono.monotoneOn (Ioi w))
+    (Monotone.map_bddBelow hfc.rightDeriv_mono bddBelow_Ioi)
+  set l := sInf (rightDeriv f '' Ioi w)
+  convert h_lim
+  refine (LE.le.le_iff_eq ?_).mp ?_ --any better way to split an equality goal into the two inequalitites?
```
Comment (RemyDegenne) [inline TestingLowerBounds/ForMathlib/LeftRightDeriv.lean]:
```suggestion
  apply le_antisymm
```
